US07253286B2
4-(1H-Pyrrolo[2,3-b]pyridin-4-yloxy)aniline
4-(4-Nitrophenoxy)-1H-pyrrolo[2,3-b]pyridine (84 mg), iron powder (160 mg), ammonium chloride (320 mg), dimethylformamide (4 ml), ethanol (2 ml) and water (2 ml) were stirred at 100° C. for 15 minutes. The mixture was filtered with celite, and then water and ethyl acetate were added for extraction. The organic layer was washed 5 times with aqueous ammonium chloride solution and then dried over magnesium sulfate. The drying agent was filtered off and the solvent was distilled off under reduced pressure to obtain 230 mg of the target substance as a brown oil.

reactant | 4-(4-Nitrophenoxy)-1H-pyrrolo[2,3-b]pyridine | 84 mg | [N+](=O)([O-])C1=CC=C(OC2=C3C(=NC=C2)NC=C3)C=C1 | C13H9N3O3
reactant | ammonium chloride | 320 mg | [Cl-].[NH4+]
reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
reactant | ethanol | 2 ml | C(C)O | C2H6O
catalyst | iron | 160 mg | [Fe] | Fe
solvent | water | 2 ml | O | H2O
product | 4-(1H-Pyrrolo[2,3-b]pyridin-4-yloxy)aniline | N1C=CC=2C1=NC=CC2OC2=CC=C(N)C=C2 | C13H11N3O
